US05326840
N-(3-tert-Butoxycarbonyloxyphenyl) methacrylamide
K2CO3 (50 g) is added to a solution of 40.0 g (0.225 mol) of N-(3-hydroxyphenyl)methacrylamide in tetrahydrofuran (THF). A solution of 54.2 g (0.249 mol) of di-tert-butyl pyrocarbonate (di-tert-butyl dicarbonate) in THF is then added dropwise at room temperature while stirring. The reaction is complete after a few hours. The reaction mixture is poured onto ice and extracted with ethyl acetate, the organic phase is dried and the solvent is distilled off. A white crystalline product is obtained which is recrystallized from diisopropyl ether.

reactant | K2CO3 | 50 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-(3-hydroxyphenyl)methacrylamide | 0.225 mol, 40.0 g | OC=1C=C(C=CC1)NC(C(=C)C)=O | C10H11NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(3-tert-Butoxycarbonyloxyphenyl) methacrylamide | C(C)(C)(C)OC(=O)OC=1C=C(C=CC1)NC(C(=C)C)=O | C15H19NO4
